US06762321B2
11.68 g (30.0 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acetamide and 15.67 g (90.0 mmol) of t-butoxybis(dimethylamino) methane were mixed and stirred at 80° C. for 2 hours. The reaction mixture was cooled and tetrahydrofuran was added thereto. The reaction mixture was acidified with 5% hydrochloric acid and stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, water and 5% hydrochloric acid were added to the residue, which was followed by extracted with chloroform twice, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane and dried to give 11.30 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acetamide | 30.0 mmol, 11.68 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(CC1=CC=C(C=C1)C)=O)OC | C25H27NO3
reactant | t-butoxybis(dimethylamino) methane | 90.0 mmol, 15.67 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 11.30 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=C(C=C1)C)=O)OC | C26H27NO4
